US05958910
4-(3-Benzyloxy-phenyl)-thiazol-2-ylamine hydrobromide
A solution of 22.5 g of 2-bromo-1-(3-benzyloxy-phenyl)-ethanone in 150 ml of methanol was treated at room temperature with 7.8 g of thiourea and boiled for 1 hour. 16.1 g of 4-(3-benzyloxy-phenyl)-thiazol-2-ylamine hydrobromide separated as colorless crystals upon cooling to 0° C.

reactant | 2-bromo-1-(3-benzyloxy-phenyl)-ethanone | 22.5 g | BrCC(=O)C1=CC(=CC=C1)OCC1=CC=CC=C1 | C15H13BrO2
reactant | thiourea | 7.8 g | NC(=S)N | CH4N2S
solvent | methanol | 150 ml | CO | CH4O
product | 4-(3-Benzyloxy-phenyl)-thiazol-2-ylamine hydrobromide | Br.C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(SC1)N | InChI=1S/C16H14N2OS.BrH/c17-16-18-15(11-20-16)13-7-4-8-14(9-13)19-10-12-5-2-1-3-6-12;/h1-9,11H,10H2,(H2,17,18);1H
